US03941818
Methionine (74.6g, 0.5 mol) was dissolved in a 165 ml of 6.08 N N hydrochloric acid and zinc oxide (40.65g) was added. The mixture was heated at 90° C. for one hour to provide zinc methionine chloride solution. The product contained 19.9% zinc and 44.0% methionine. The presence of zinc methionine chloride was confirmed by quantitative and instrumental analysis.

reactant | Methionine | 0.5 mol, 74.6g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | zinc oxide | 40.65g | [O-2].[Zn+2]
reactant | hydrochloric acid | Cl | ClH
product | zinc methionine chloride | N[C@@H](CCSC)C(=O)Cl.[Zn] | InChI=1S/C5H10ClNOS.Zn/c1-9-3-2-4(7)5(6)8;/h4H,2-3,7H2,1H3;/t4-;/m0./s1
